US09126956B2
6G: (2S,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-4-[(3-methoxyisoxazole-5-carbonyl)amino]-2-methylpentanoic Acid
3-Methoxyisoxazole-5-carboxylic acid (8 mg, 55 μmol) and HATU (20.8 mg, 55 μmol) were combined in DMF (0.2 mL) and allowed to stand at room temperature for 10 minutes. (2S,4R)-4-Amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid (20 mg, 55 μmol) in DMF and DIPEA (28.6 μL, 164 μmol) were added, and the resulting mixture was stirred for 20 minutes at room temperature. The mixture was concentrated under reduced pressure and the residue was dissolved in AcOH purified by preparative HPLC to yield the title compound (5.4 mg). MS m/z [M+H]+ calc'd for C24H24ClFN2O6, 491.13. found 491.2.

reactant | 3-Methoxyisoxazole-5-carboxylic acid | 55 μmol, 8 mg | COC1=NOC(=C1)C(=O)O | C5H5NO4
reactant | HATU | 55 μmol, 20.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-4-Amino-5-(5′-chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methylpentanoic acid | 55 μmol, 20 mg | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F | C19H21ClFNO3
reactant | DIPEA | 164 μmol, 28.6 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-(5′-Chloro-2′-fluorobiphenyl-4-yl)-2-hydroxymethyl-4-[(3-methoxyisoxazole-5-carbonyl)amino]-2-methylpentanoic Acid | 5.4 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)C1=CC(=NO1)OC)F | C24H24ClFN2O6
